US07022689B2
To a stirred solution of 23.89 g of N-[2-(4-bromophenyl)ethyl]-2,2,2-trifluoroacetamide in 200 mL of acetonitrile was added in one portion 13.87 g of nitronium tetrafluoroborate under ice-cooling. After the mixture was stirred at room temperature for 15 minutes, to the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 11.03 g of N-[2-(4-bromo-2-nitrophenyl)ethyl]-2,2,2-trifluoroacetamide.

reactant | N-[2-(4-bromophenyl)ethyl]-2,2,2-trifluoroacetamide | 23.89 g | BrC1=CC=C(C=C1)CCNC(C(F)(F)F)=O | C10H9BrF3NO
reactant | water | O | H2O
reactant | nitronium tetrafluoroborate | 13.87 g | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-[2-(4-bromo-2-nitrophenyl)ethyl]-2,2,2-trifluoroacetamide | 11.03 g | BrC1=CC(=C(C=C1)CCNC(C(F)(F)F)=O)[N+](=O)[O-] | C10H8BrF3N2O3
